US07842688B2
e) Methyl 3H-Benzimidazole-4-carboxylate
2.000 g of methyl 2,3-diaminobenzoate are suspended in 35 ml of 4M aqueous HCl. The suspension is admixed at room temperature with 1.350 ml of formic acid and heated to reflux over one hour. The reaction solution is cooled to room temperature and the precipitated solid is filtered off. The filtercake is taken up in 50 ml of methanol and the mixture is heated to reflux until all solids have dissolved. The hot solution is treated with 0.500 g of activated carbon and subsequently clarified by filtration. The filtrate is admixed with 0.62 ml of conc. H2SO4 and heated to reflux over 24 hours. The reaction solution is cooled to room temperature and made neutral with saturated aqueous sodium carbonate solution (6 ml). The mixture is subsequently admixed with 50 ml of water and 100 ml of ethyl acetate, and the phases are separated. The aqueous phase is extracted with ethyl acetate (2×100 ml) and the combined organic phases are subsequently washed with 100 ml of saturated sodium carbonate solution and 100 ml of water, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a beige solid. Rt=2.02.

reactant | methyl 2,3-diaminobenzoate | 2.000 g | NC1=C(C(=O)OC)C=CC=C1N | C8H10N2O2
reactant | formic acid | 1.350 ml | C(=O)O | CH2O2
solvent | HCl | 4M, 35 ml | Cl | ClH
product | Methyl 3H-Benzimidazole-4-carboxylate | N1=CNC2=C1C=CC=C2C(=O)OC | C9H8N2O2
